US05214037
To a solution of 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester (800 mg : 1.06 mMol.) and 2-(2-t-butoxycarbonylaminothiazol-4-yl) glyoxylic acid (303 mg : 1.11 mMol.) in dichloromethane (8 ml) cooling at -30° C., are added N- methylmorpholine (0.27 ml) (2.46 mMol.) and phenyl dichlorophosphate (0.19 ml : 1.27 mMol.), and the mixture is stirred at -30° C. for 1 hour. The reaction mixture is mixed with 10% hydrochloric acid (1 ml), diluted with water, and extracted with ethyl acetate. The extract is washed with brine, dried over sodium sulfate, and concentrated. The residue is purified by silica gel chromatography (toluene : ethyl acetate=2:1) to give 7β-[2-(2-t-butoxycarbonylaminothiazol-4-yl)- glyoxylylamino]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4- carboxylic acid diphenylmethyl ester (679 mg) as yellow foam. Yield : 64%.

reactant | 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester | 1.06 mMol, 800 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H35N5O3S3
reactant | 2-(2-t-butoxycarbonylaminothiazol-4-yl) glyoxylic acid | 1.11 mMol, 303 mg | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C(C(=O)O)=O | C10H12N2O5S
reactant | N- methylmorpholine | 2.46 mMol, 0.27 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl dichlorophosphate | 1.27 mMol, 0.19 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 7β-[2-(2-t-butoxycarbonylaminothiazol-4-yl)- glyoxylylamino]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4- carboxylic acid diphenylmethyl ester | 679 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(C(=O)C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C52H45N7O7S4
